US07932279B2
5% Pd/C was wetted carefully with methanol under N2, then a solution of 5-(4,6-bis-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-3-yl)-1-(3-methoxy-propyl)-1H-tetrazole (100 mg, 0.17 mmol) in methanol (5 ml) was added. The reaction system was vacuumed and filled with hydrogen three times, and the reaction was stirred under hydrogen at r.t. overnight. After filtering the catalyst over celite, the filtrate was concentrated to give product 5′-isopropyl-2′-methoxy-5-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-2,4-diol (49 mg, 71%). M.p.: 174-176° C.; 400 MHz 1H NMR (CDCl3) δ: 10.58 (s, 1H), 7.60 (s, 1H), 7.28 (dd, J=2.0 Hz, 8.4 Hz, 1H), 7.15 (d, J=2.4 Hz, 1H), 7.01 (d, J=8.8 Hz, 1H), 6.81 (s, 1H), 6.62 (s, 1H), 4.73 (t, J=6.8 Hz, 2H), 3.90 (s, 3H), 3.38 (t, J=5.6 Hz, 2H), 3.10 (s, 3H), 2.99-2.87 (m, 1H), 2.28 (pent, J=6.4 Hz, 2H), 1.27 (d, J=7.2 Hz, 6H); LCMS: 399 [M+H].

reactant | 5-(4,6-bis-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-3-yl)-1-(3-methoxy-propyl)-1H-tetrazole | 0.17 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=C(C=CC(=C1)C(C)C)OC)C1=NN=NN1CCCOC | C35H38N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5′-isopropyl-2′-methoxy-5-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-2,4-diol | 49 mg, 71% | C(C)(C)C=1C=CC(=C(C1)C=1C(=CC(=C(C1)C1=NN=NN1CCCOC)O)O)OC | C21H26N4O4
